* Created by KLayout
*** My special header ***

* cell tr_1um_Kosen04
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_Kosen04 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 125,-323.1
X$1 P9 \$10 P15 VSS P11 P4 P14 P7 P5 P6 P13 P12 P2 P3 P10
+ single_end_double_balanced_passive_switch_mixer
* cell instance $3 r0 *1 0,0
X$3 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
.ENDS tr_1um_Kosen04

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell single_end_double_balanced_passive_switch_mixer
* pin 
* pin 
* pin 
* pin VSS
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
.SUBCKT single_end_double_balanced_passive_switch_mixer \$6 \$28 \$61 VSS \$I17
+ \$I16 \$I15 \$I14 \$I13 \$I12 \$I11 \$I10 \$I9 \$I8 \$I4
* cell instance $2 r0 *1 31,-405.2
X$2 \$6 \$2 \$I4 \$1 \$28 VSS diff_amp
* cell instance $4 r0 *1 0,0
X$4 \$I17 \$I11 \$I10 \$1 \$2 \$61 \$I15 VSS
+ double_balanced_passive_switch_mixer
* cell instance $9 r0 *1 -632.6,0
X$9 \$28 \$I8 \$I16 \$I9 VSS single_to_diff_RF
* cell instance $12 r0 *1 -393.7,0
X$12 \$28 \$I12 \$I14 \$I13 VSS single_to_diff_LO
.ENDS single_end_double_balanced_passive_switch_mixer

* cell diff_amp
* pin T_BIAS
* pin IF_N
* pin RF_OUT
* pin IF_P
* pin VDD
* pin VSS
.SUBCKT diff_amp T_BIAS IF_N RF_OUT IF_P VDD VSS
* device instance $1 r0 *1 -27.5,0 PMOS
XM$1 VDD VDD \$29 VDD PMOS L=2u W=10u AS=28p AD=15p PS=31.2u PD=16u
* device instance $2 r0 *1 -22.5,0 PMOS
XM$2 \$29 \$29 VDD VDD PMOS L=2u W=50u AS=75p AD=75p PS=80u PD=80u
* device instance $3 r0 *1 -17.5,0 PMOS
XM$3 VDD \$29 RF_OUT VDD PMOS L=2u W=50u AS=75p AD=75p PS=80u PD=80u
* device instance $12 r0 *1 27.5,0 PMOS
XM$12 RF_OUT VDD VDD VDD PMOS L=2u W=10u AS=15p AD=28p PS=16u PD=31.2u
* device instance $25 r0 *1 -22,-64.9 NMOS
XM$25 VSS VSS VSS VSS NMOS L=1u W=20u AS=43p AD=43p PS=38.6u PD=38.6u
* device instance $26 r0 *1 -18,-64.9 NMOS
XM$26 VSS T_BIAS \$16 VSS NMOS L=1u W=100u AS=150p AD=150p PS=130u PD=130u
* device instance $37 r0 *1 -22,-47 NMOS
XM$37 VSS VSS \$29 VSS NMOS L=1u W=10u AS=28p AD=15p PS=31.2u PD=16u
* device instance $38 r0 *1 -18,-47 NMOS
XM$38 \$29 IF_P \$16 VSS NMOS L=1u W=50u AS=75p AD=75p PS=80u PD=80u
* device instance $39 r0 *1 -14,-47 NMOS
XM$39 \$16 IF_N RF_OUT VSS NMOS L=1u W=50u AS=75p AD=75p PS=80u PD=80u
* device instance $48 r0 *1 22,-47 NMOS
XM$48 RF_OUT VSS VSS VSS NMOS L=1u W=10u AS=15p AD=28p PS=16u PD=31.2u
* device instance $61 r90 *1 85.1,-59.3 F_CSIO
XC$61 RF_OUT VSS VSS F_CSIO C=9.6e-13 A=1600p P=160u X=40 Y=40 m=4
.ENDS diff_amp

* cell double_balanced_passive_switch_mixer
* pin RF_N
* pin LO_N
* pin LO_P
* pin IF_P
* pin IF_N
* pin DC_BIAS
* pin RF_P
* pin VSS
.SUBCKT double_balanced_passive_switch_mixer RF_N LO_N LO_P IF_P IF_N DC_BIAS
+ RF_P VSS
* cell instance $1 r180 *1 91,-232
X$1 LO_N RF_N IF_P VSS NMOS_Base
* cell instance $2 r180 *1 211,-232
X$2 LO_P RF_N IF_N VSS NMOS_Base
* cell instance $3 r0 *1 120,0
X$3 LO_N RF_P IF_N VSS NMOS_Base
* cell instance $4 r0 *1 0,0
X$4 LO_P RF_P IF_P VSS NMOS_Base
* device instance $1 r0 *1 -96.8,22.6 F_RR
XR$1 IF_P DC_BIAS DC_BIAS F_RR R=17.6428571429 L=49.4u W=2.8u A=138.32p
+ P=104.4u m=1
* device instance $2 r0 *1 307.8,22.6 F_RR
XR$2 DC_BIAS IF_N DC_BIAS F_RR R=17.6428571429 L=49.4u W=2.8u A=138.32p
+ P=104.4u m=1
* device instance $3 r0 *1 105.6,85.3 F_RR
XR$3 RF_P DC_BIAS DC_BIAS F_RR R=17.6428571429 L=49.4u W=2.8u A=138.32p
+ P=104.4u m=1
* device instance $4 r90 *1 -84.6,-165.6 F_CSIO
XC$4 IF_P VSS VSS F_CSIO C=4.86e-12 A=8100p P=360u X=90 Y=90 m=4
* device instance $8 r90 *1 196.4,-66.4 F_CSIO
XC$8 IF_N VSS VSS F_CSIO C=4.86e-12 A=8100p P=360u X=90 Y=90 m=4
.ENDS double_balanced_passive_switch_mixer

* cell single_to_diff_LO
* pin VDD
* pin LO_IN
* pin LO_P
* pin LO_N
* pin VSS
.SUBCKT single_to_diff_LO VDD LO_IN LO_P LO_N VSS
* device instance $1 r0 *1 47.3,0 NMOS
XM$1 VSS VSS LO_N VSS NMOS L=2u W=20u AS=43p AD=43p PS=38.6u PD=38.6u
* device instance $2 r0 *1 52.3,0 NMOS
XM$2 LO_N LO_IN LO_P VSS NMOS L=2u W=100u AS=150p AD=150p PS=130u PD=130u
* device instance $13 r0 *1 111,-62.4 F_RR
XR$13 VSS LO_P VDD F_RR R=3.95 L=15.8u W=4u A=63.2p P=39.6u m=1
* device instance $14 r0 *1 111,60 F_RR
XR$14 VDD LO_N VDD F_RR R=3.95 L=15.8u W=4u A=63.2p P=39.6u m=1
* device instance $15 r0 *1 55.5,-95 F_RR
XR$15 VSS LO_IN VDD F_RR R=17.5714285714 L=98.4u W=2.8u A=137.76p P=104u m=1
* device instance $16 r0 *1 55.5,59.4 F_RR
XR$16 LO_IN VDD VDD F_RR R=17.5714285714 L=49.2u W=2.8u A=137.76p P=104u m=1
.ENDS single_to_diff_LO

* cell single_to_diff_RF
* pin VDD
* pin RF_IN
* pin RF_P
* pin RF_N
* pin VSS
.SUBCKT single_to_diff_RF VDD RF_IN RF_P RF_N VSS
* device instance $1 r0 *1 47.3,0 NMOS
XM$1 VSS VSS RF_N VSS NMOS L=2u W=10u AS=21.5p AD=21.5p PS=23.6u PD=23.6u
* device instance $2 r0 *1 52.3,0 NMOS
XM$2 RF_N RF_IN RF_P VSS NMOS L=2u W=50u AS=75p AD=75p PS=80u PD=80u
* device instance $13 r0 *1 111,-61.8 F_RR
XR$13 VSS RF_P VDD F_RR R=6.35714285714 L=17.8u W=2.8u A=49.84p P=41.2u m=1
* device instance $14 r0 *1 111,59.4 F_RR
XR$14 VDD RF_N VDD F_RR R=6.35714285714 L=17.8u W=2.8u A=49.84p P=41.2u m=1
* device instance $15 r0 *1 55.5,-95 F_RR
XR$15 VSS RF_IN VDD F_RR R=17.5714285714 L=98.4u W=2.8u A=137.76p P=104u m=1
* device instance $16 r0 *1 55.5,59.4 F_RR
XR$16 RF_IN VDD VDD F_RR R=17.5714285714 L=49.2u W=2.8u A=137.76p P=104u m=1
.ENDS single_to_diff_RF

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell NMOS_Base
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NMOS_Base \$2 \$9 \$12 VSS
* device instance $1 r0 *1 22.3,27.2 NMOS
XM$1 VSS VSS \$12 VSS NMOS L=1u W=20u AS=43p AD=43p PS=38.6u PD=38.6u
* device instance $2 r0 *1 26.3,27.2 NMOS
XM$2 \$12 \$2 \$9 VSS NMOS L=1u W=100u AS=150p AD=150p PS=130u PD=130u
.ENDS NMOS_Base

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
